US08207164B2
c) 2-Amino-2-(3-bromo-phenyl)-propan-1-ol
NaBH4 (38 g, 1.125 mol) was added at room temperature to a slurry of 2-amino-2-(3-bromo-phenyl)-propionic acid hydrochloride (105 g, 375 mmol) in dry THF. At 0° C. BF3—O(C2H5)2 (158 g, 1.125 mol) was added dropwise. The mixture was allowed to warm to room temperature, stirred for three days, quenched with 1M aqueous NaOH solution, concentrated in vacuo to remove the THF and extracted with EtOAc (3×300 ml). The organic phase was washed with 1M aqueous NaOH solution, dried with sodium sulfate and concentrated in vacuo to yield the title compound, which was used in the next reaction step without further purification. 1H-NMR (400 MHz, CDCl3): 7.61 (s, 1H), 7.35 (m, 2H), 7.21 (m, 1H), 3.58 (q, 2H), 1.42 (s, 3H).

reactant | NaBH4 | 1.125 mol, 38 g | [BH4-].[Na+]
reactant | 2-amino-2-(3-bromo-phenyl)-propionic acid hydrochloride | 375 mmol, 105 g | Cl.NC(C(=O)O)(C)C1=CC(=CC=C1)Br
reactant | BF3 O(C2H5)2 | 1.125 mol, 158 g | B(F)(F)F.O(CC)CC
solvent | THF | C1CCOC1 | C4H8O
product | 2-Amino-2-(3-bromo-phenyl)-propan-1-ol | NC(CO)(C)C1=CC(=CC=C1)Br | C9H12BrNO
